US04704005
1306 ml of liquid ammonia were placed in a sulphonation flask and then a solution of 38.4 g of 4-butyloxy-1-[2-(trans-4-pentylcyclohexyl)ethyl]benzene in 1.1 l of diethyl ether was added dropwise within 40 minutes while cooling. 23.3 g of lithium wire were subsequently added within 35 minutes and the mixture was stirred for 2 hours. 420 ml of ethanol were then added dropwise to the mixture within 70 minutes and the ammonia was allowed to evaporate overnight under nitrogen. The mixture was cooled to 10° C. and 1.5 l of water were then added dropwise within 35 minutes in such a manner that the temperature did not rise above 10° C. The mixture was extracted three times with 0.5 l of diethyl ether each time. The organic phases were washed twice with 0.5 l of water each time, dried over potassium carbonate, filtered and concentrated, there being obtained 39.0 g of 4-butyloxy-1-[2-(trans-4-pentylcyclohexyl)ethyl]-1,4-cyclohexadiene as a colourless crystallizing oil.

reactant | ammonia | N | H3N
reactant | 4-butyloxy-1-[2-(trans-4-pentylcyclohexyl)ethyl]benzene | 38.4 g | C(CCC)OC1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)CCCCC | C23H38O
reactant | lithium | 23.3 g | [Li] | Li
reactant | ethanol | 420 ml | C(C)O | C2H6O
solvent | diethyl ether | 1.1 l | C(C)OCC | C4H10O
product | 4-butyloxy-1-[2-(trans-4-pentylcyclohexyl)ethyl]-1,4-cyclohexadiene | 39.0 g | C(CCC)OC=1CC=C(CC1)CC[C@@H]1CC[C@H](CC1)CCCCC | C23H40O
